US08895547B2
5-(3-Bromophenyl)-2-methoxy-6,6-dimethyl-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide
A mixture of 500 mg of 1-(3-bromophenyl)-2-hydroxy-2-methylpropane-1-sulfonamide in 2 ml of tetramethoxymethane and 0.5 ml of acetic acid was stirred at 100° C. for 3 hours. After the removal of the solvent under reduced pressure, the residue (565 mg) was used in the next reaction without further purification.

reactant | 1-(3-bromophenyl)-2-hydroxy-2-methylpropane-1-sulfonamide | 500 mg | BrC=1C=C(C=CC1)C(C(C)(C)O)S(=O)(=O)N | C10H14BrNO3S
reactant | tetramethoxymethane | 2 ml | COC(OC)(OC)OC | C5H12O4
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 5-(3-Bromophenyl)-2-methoxy-6,6-dimethyl-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide | BrC=1C=C(C=CC1)C1S(N=C(OC1(C)C)OC)(=O)=O | C12H14BrNO4S
